US08080541B2
A solution of 515 mg (1.2 mmol) 2-(2-methoxy-3-methyl-4-trifluoromethyl-phenyl)-3,4,4-trimethyl-4,5-dihydro-oxazol-3-ium iodide in 5 ml methanol and 5 ml 20% NaOH was heated to 70° C. for 17 h. The yellow solution was cooled to rt, methanol was distilled off, the residue acidified with conc. HCl to pH 1 and extracted three times with tert-butyl methyl ether. The combined organic phases were washed twice with brine, dried over Na2SO4, filtered and evaporated: 2-Methoxy-3-methyl-4-trifluoromethyl-benzoic acid was obtained as yellow solid: MS (ISN): 233.04 ((M−H)−).

reactant | 2-(2-methoxy-3-methyl-4-trifluoromethyl-phenyl)-3,4,4-trimethyl-4,5-dihydro-oxazol-3-ium iodide | 1.2 mmol, 515 mg | [I-].COC1=C(C=CC(=C1C)C(F)(F)F)C=1OCC([N+]1C)(C)C
reactant | methanol | 5 ml | CO | CH4O
solvent | NaOH | 5 ml | [OH-].[Na+]
product | 2-Methoxy-3-methyl-4-trifluoromethyl-benzoic acid | COC1=C(C(=O)O)C=CC(=C1C)C(F)(F)F | C10H9F3O3
